US09085540B2
To a mixture of tert-butyl (2R,6S)-4-[4-({6-[3-(acryloylamino)phenoxy]-3-carbamoyl-5-ethylpyrazin-2-yl}amino)phenyl]-2,6-dimethylpiperazine-1-carboxylate (175 mg) and tetrahydrofuran (3 mL) was added a 4 M hydrogen chloride dioxane solution (3 mL), followed by stirring at room temperature for 2 hours. The solvent was evaporated under reduced pressure and the obtained residue was washed with ethyl acetate and then dried at room temperature to obtain 5-[3-(acryloylamino)phenoxy]-3-({4-[(3R,5S)-3,5-dimethylpiperazin-1-yl]phenyl}amino)-6-ethylpyrazine-2-carboxamide trihydrochloride (157 mg) as a yellow solid.

reactant | tert-butyl (2R,6S)-4-[4-({6-[3-(acryloylamino)phenoxy]-3-carbamoyl-5-ethylpyrazin-2-yl}amino)phenyl]-2,6-dimethylpiperazine-1-carboxylate | 175 mg | C(C=C)(=O)NC=1C=C(OC2=C(N=C(C(=N2)NC2=CC=C(C=C2)N2C[C@H](N([C@H](C2)C)C(=O)OC(C)(C)C)C)C(N)=O)CC)C=CC1 | C33H41N7O5
reactant | hydrogen chloride dioxane | 4 M, 3 mL | O1CCOCC1.Cl
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 5-[3-(acryloylamino)phenoxy]-3-({4-[(3R,5S)-3,5-dimethylpiperazin-1-yl]phenyl}amino)-6-ethylpyrazine-2-carboxamide trihydrochloride | 157 mg | Cl.Cl.Cl.C(C=C)(=O)NC=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=CC=C(C=C2)N2C[C@H](N[C@H](C2)C)C)C=CC1 | InChI=1S/C28H33N7O3.3ClH/c1-5-23-28(38-22-9-7-8-20(14-22)31-24(36)6-2)34-27(25(33-23)26(29)37)32-19-10-12-21(13-11-19)35-15-17(3)30-18(4)16-35;;;/h6-14,17-18,30H,2,5,15-16H2,1,3-4H3,(H2,29,37)(H,31,36)(H,32,34);3*1H/t17-,18+;;;
